US07750003B2
Phenyl N-[4-[4-(cyclopentylsulfonylmethyl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]carbamate
Phenyl chloroformate (0.759 mL, 6.05 mmol) was added to 4-[4-(cyclopentylsulfonylmethyl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]aniline (1.68 g, 4.03 mmol) and sodium hydrogen carbonate (0.508 g, 6.05 mmol) in dioxane (20 mL) at 5° C. under nitrogen. The resulting mixture was stirred at RT for 2 hours. The reaction mixture was diluted with ethyl acetate (200 mL), and washed with water (125 mL). The organic layer was dried (MgSO4), filtered and evaporated to afford crude product which was triturated with a mixture of diethyl ether and isohexane to give the desired material as a white solid (2.10 g).

reactant | Phenyl chloroformate | 6.05 mmol, 0.759 mL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 4-[4-(cyclopentylsulfonylmethyl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]aniline | 4.03 mmol, 1.68 g | C1(CCCC1)S(=O)(=O)CC1=NC(=NC(=C1)N1[C@H](COCC1)C)C1=CC=C(N)C=C1 | C21H28N4O3S
reactant | sodium hydrogen carbonate | 6.05 mmol, 0.508 g | C(O)([O-])=O.[Na+]
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | Phenyl N-[4-[4-(cyclopentylsulfonylmethyl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]carbamate | 2.10 g | C1(CCCC1)S(=O)(=O)CC1=NC(=NC(=C1)N1[C@H](COCC1)C)C1=CC=C(C=C1)NC(OC1=CC=CC=C1)=O | C28H32N4O5S
